US08455500B2
<Step 1> Synthesis of 4-(4-bromo-3,5-dimethylphenoxy)-2-methylbutan-2-ol
According to the method of (Example 36) <Step 1>, from 3-hydroxy-3-methylbutyl 4-methylbenzenesulfonate (5.1 g) and 4-bromo-3,5-dimethylphenol (3.6 g), the subject compound (5.2 mg) was obtained as a colorless oil.

reactant | 3-hydroxy-3-methylbutyl 4-methylbenzenesulfonate | 5.1 g | CC1=CC=C(C=C1)S(=O)(=O)OCCC(C)(C)O | C12H18O4S
reactant | 4-bromo-3,5-dimethylphenol | 3.6 g | BrC1=C(C=C(C=C1C)O)C | C8H9BrO
product | 4-(4-bromo-3,5-dimethylphenoxy)-2-methylbutan-2-ol | 5.2 mg | BrC1=C(C=C(OCCC(C)(O)C)C=C1C)C | C13H19BrO2
